US05302724
The procedure of Example 3 was followed using 2-methylthiophene (8.0 g, 81.6 mmole), chlorosulfonic acid (28.4 g, 245 mmole) and 200 ml concentrated ammonium hydroxide to produce 5-methyl-2-thiophenesulfonamide which was contacted with 3,4-dichlorophenyl isocyanate (2.61 g, 13.8 mmole) and 1N NaOH (14.5 ml) in 10 ml acetone to provide 3.5 g of the named product as a solid.

reactant | 2-methylthiophene | 81.6 mmole, 8.0 g | CC=1SC=CC1 | C5H6S
reactant | chlorosulfonic acid | 245 mmole, 28.4 g | ClS(=O)(=O)O | ClHO3S
reactant | ammonium hydroxide | 200 ml | [OH-].[NH4+]
product | 5-methyl-2-thiophenesulfonamide | CC1=CC=C(S1)S(=O)(=O)N | C5H7NO2S2
